US03978069
14.4 g (0.05 mole) β-chloro-β,β-diphenyl-propionic acid ethyl ester (prepared from β-hydroxy-β,β-diphenyl-propionic acid ethyl ester, Ber. 40, 4538, by treatment with phosphorus pentachloride) are heated in 100 ml acetonitrile with 10 g imidazole at boiling temperature for 16 hours. The solvent is distilled off in a vacuum, the residue treated with 50 ml of water and extracted with methylene chloride. After drying, the solvent is distilled off in a vacuum. The β-imidazolyl-β,β-diphenyl-propionic acid ethyl ester is thus obtained in the form of crystals of m.p. 75° C.

reactant | β-chloro-β,β-diphenyl-propionic acid ethyl ester | 0.05 mole, 14.4 g | C(C)OC(CC(C1=CC=CC=C1)(C1=CC=CC=C1)Cl)=O | C17H17ClO2
reactant | imidazole | 10 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | β-imidazolyl-β,β-diphenyl-propionic acid ethyl ester | C(C)OC(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C=1NC=CN1)=O | C20H20N2O2
